US06313299B1
7-[2-(t-butoxycarbonyl)-8-(methoxyimino)-2,6-diazaspiro[3,4]oct -6-yl]-1-(2,4-difluorophenyl)-6-fluoro-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid.
1-(2,4-difluorophenyl)-6,7-difluoro-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid, 120 mg of t-butyl 8-(methoxyimino)-2,6-diazaspiro[3,4]octane-2-carboxylate and 400 mg of Amberlite® IRA-420 were added to 10 ml of acetonitrile and thereto 0.5 ml of triethylamine was added by dropping. The resulting mixture was refluxed for 48 hours and thus precipitated solid was filtered off. To the filtrate 5 ml of ethylether was added and the resulting mixture was stirred for 4 hours. The precipitated solid was filtered and dried to give 110 mg of the titled compound(yield: 67.8%).

reactant | 1-(2,4-difluorophenyl)-6,7-difluoro-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid | FC1=C(C=CC(=C1)F)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C16H7F4NO3
reactant | t-butyl 8-(methoxyimino)-2,6-diazaspiro[3,4]octane-2-carboxylate | 120 mg | CON=C1CNCC12CN(C2)C(=O)OC(C)(C)C | C12H21N3O3
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
solvent | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
product | 7-[2-(t-butoxycarbonyl)-8-(methoxyimino)-2,6-diazaspiro[3,4]oct -6-yl]-1-(2,4-difluorophenyl)-6-fluoro-4-oxo-1,4-dihydro-3-quinolinecarboxylic acid | 110 mg, yield: 67.8% | C(C)(C)(C)OC(=O)N1CC2(C1)CN(CC2=NOC)C2=C(C=C1C(C(=CN(C1=C2)C2=C(C=C(C=C2)F)F)C(=O)O)=O)F | C28H27F3N4O6
